US05670503
To a mixture of 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (148 mg) and triethylamine (101 mg) in dry dichloromethane was added acetic anhydride (54 mg). The reaction mixture was stirred at ambient temperature for 4 hours and then, to the mixture was added methanol (1 ml). After standing for 30 minutes, the mixture was concentrated in vacuo. The residue was purified by column chromatography on silica gel. The first fraction was concentrated in vacuo and the obtained oil was crystallized from a mixture of diethyl ether and n-hexane to give 1,2-diacetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo-[5,1-c][1,2,4]triazine (22 mg).

reactant | 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 148 mg | FC1=CC=C(C=C1)C1=NN2C(NNCC2)=C1C1=CC=NC=C1 | C16H14FN5
reactant | triethylamine | 101 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 54 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | 1 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,2-diacetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo-[5,1-c][1,2,4]triazine | 22 mg | C(C)(=O)N1N(CCN2C1=C(C(=N2)C2=CC=C(C=C2)F)C2=CC=NC=C2)C(C)=O | C20H18FN5O2
